US07259178B2
A solution of 1 g (3.86 mmol) of 2-(4-amino-phenyl)-1,1,1,3,3,3-hexafluoro-propan-2-ol in 2 ml of THF and 5 mL of pyridine was treated with 0.44 mL (4.63 mmol) of Ac2O and stirred for 2 hrs at 60° C. The solvent was evaporated and the crude distributed between a diluted aqueous solution of HCl and Et2O. the combined organic phases were dried over Na2SO4 and the solvent evaporated. The residue was dissolved in 5 mL of THF, treated with 7.7 mL of a 1M BH3*THF-solution in THF and refluxed for 2 hrs. The solvent was evaporated and the residue distributed between a diluted aqueous solution of NaOH and Et2O. The aqueous phase was then acidified by addition of an aqueous solution of HCl to a pH of ca. 7 and extracted with Et2O. The combined organic phases were dried over Na2SO4 and the solvent evaporated to give 1.07 g (96%) of crude 2-(4-ethylamino-phenyl)-1,1,1,3,3,3-hexafluoro-propan-2-ol, light yellow solid, MS: 288 (MH+).

reactant | 2-(4-amino-phenyl)-1,1,1,3,3,3-hexafluoro-propan-2-ol | 3.86 mmol, 1 g | NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H7F6NO
reactant | Ac2O | 4.63 mmol, 0.44 mL | CC(=O)OC(=O)C | C4H6O3
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-ethylamino-phenyl)-1,1,1,3,3,3-hexafluoro-propan-2-ol | 1.07 g, 96% | C(C)NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C11H11F6NO
